US05223261
Part E. Preparation of Isooctyl Acrylate: Acrylamide (95:5) Copolymer
The procedures above were repeated this time employing 803.7 g of isooctyl acrylate, 42.3 g of acrylamide, 1.69 g of 2,2'-azobis(2,4-dimethylpentanenitrile), 858.6 g of ethyl acetate and 95.4 g of methanol. The resulting copolymer was diluted with ethyl acetate/methanol (90/10) to 28.37% solids. The adhesive copolymer had a measured inherent viscosity of 1.35 dl/g in ethyl acetate at a concentration of 0.15 g/dl. Its Brookfield viscosity was 12,000 centipoise.

reactant | isooctyl acrylate | 803.7 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | acrylamide | 42.3 g | C(C=C)(=O)N | C3H5NO
reactant | 2,2'-azobis(2,4-dimethylpentanenitrile) | 1.69 g | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
reactant | methanol | 95.4 g | CO | CH4O
solvent | ethyl acetate methyl alcohol | C(C)(=O)OCC.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 858.6 g | C(C)(=O)OCC | C4H8O2
product | Isooctyl Acrylate Acrylamide | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)N | InChI=1S/C11H20O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;2H,1H2,(H2,4,5)
